US08030435B2
6.31 g (0.0354 moles) of 2,4,4-trimethylpentyl phosphinic acid, 10 g (0.0354 moles) of oleic acid and 0.25 mL (0.0012 moles) of di-tert-amylperoxide are mixed in a 50 mL single neck flask. The mixture is purged with argon to remove oxygen and is heated under argon for 6 hours at 140° C. Tert-amyl alcohol is removed by distillation and 13.5 g (83% yield) of 10-[hydroxy-(2,4,4-trimethyl-pentyl)-phosphinoyl]-octadecanoic acid is obtained as a viscous oil.

reactant | 2,4,4-trimethylpentyl phosphinic acid | 0.0354 moles, 6.31 g | CC(CP(O)=O)CC(C)(C)C | C8H19O2P
reactant | oleic acid | 0.0354 moles, 10 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
catalyst | di-tert-amylperoxide | 0.0012 moles, 0.25 mL | C(C)(C)(CC)OOC(C)(C)CC | C10H22O2
product | 10-[hydroxy-(2,4,4-trimethyl-pentyl)-phosphinoyl]-octadecanoic acid | 13.5 g, 83% yield | OP(=O)(C(CCCCCCCCC(=O)O)CCCCCCCC)CC(CC(C)(C)C)C | C26H53O4P
